US05409943
(a) 2-Amino-3-(2,3,6-trifluorobenzyloxy)pyridine
A mixture of 2-amino-3-hydroxy pyridine (2.44 g, 0.022 mol), dichloromethane (20 ml) and 40% aqueous sodium hydroxide solution (20 ml) was stirred for five minutes, then 2,3,6-trifluorobenzyl bromide (5.00 g, 0.022 mol) and Adogen 464 (3 ml) were added and stirring continued for 16 hours. The mixture was diluted with water and extracted with dichloromethane. Drying and evaporation of the organic extracts, and trituration with ether gave the desired product. Yield 2.94 g (53%), m.p. 108°-110 ° C.

reactant | 2-amino-3-hydroxy pyridine | 0.022 mol, 2.44 g | NC1=NC=CC=C1O | C5H6N2O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | 2,3,6-trifluorobenzyl bromide | 0.022 mol, 5.00 g | FC1=C(CBr)C(=CC=C1F)F | C7H4BrF3
catalyst | Adogen 464 | 3 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | 2-Amino-3-(2,3,6-trifluorobenzyloxy)pyridine | NC1=NC=CC=C1OCC1=C(C(=CC=C1F)F)F | C12H9F3N2O
